US08124606B2
Compound 102A: (S)-methyl 6-(2-(methoxycarbonyl)azetidin-1-yl)-5-nitronicotinate:
(S)-methyl azetidine-2-carboxylate hydrochloride (1 g, 6.60 mmol) was diluted with Tetrahydrofuran (Volume: 20 ml) and treated with TRIETHYLAMINE (0.919 ml, 6.60 mmol). The reaction mixture was stirred vigorously and sonicated periodically, until a fine suspension resulted. This was stirred for 1 h and filtered through a small plug of celite. The plug was washed well with THF (20 mL) and the combined filtrate and washes were treated with methyl 6-chloro-5-nitronicotinate (0.714 g, 3.30 mmol). The reaction mixture was concentrated in vacuo and heated briefly (5 min) to 80° C. LCMS showed complete conversion. The reaction mixture was diluted with DCM (10 mL) and purified using flash column chromatography on silica gel (80 g SiO2, 20-30% ethyl acetate in hexanes) to afford the title compound (S)-methyl 6-(2-(methoxycarbonyl)azetidin-1-yl)-5-nitronicotinate (0.90 g, 3.05 mmol, 92% yield) as a yellow oil. [M+H] calc'd for C12H13N3O6, 295; found, 295.

reactant | (S)-methyl azetidine-2-carboxylate hydrochloride | 6.60 mmol, 1 g | Cl.N1[C@@H](CC1)C(=O)OC
reactant | TRIETHYLAMINE | 6.60 mmol, 0.919 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 6-chloro-5-nitronicotinate | 3.30 mmol, 0.714 g | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
solvent | Tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (S)-methyl 6-(2-(methoxycarbonyl)azetidin-1-yl)-5-nitronicotinate | 3.05 mmol, 0.90 g, 92% yield | COC(=O)[C@H]1N(CC1)C1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C12H13N3O6
